US03993683
Ethyl-[2-(2'-fluoro-4-biphenylyl)-2-oxo-ethyl]-sulfoxide
12.8 ml of 30% hydrogen peroxide were added dropwise, while stirring, to a suspension of 16.3 gm (59.5 millimols) of ethyl-[2-(2'-fluoro-4-biphenylyl)-2-oxo-ethyl]-sulfide in 170 ml of glacial acetic acid at 15° C. A clear solution was obtained which was stirred for 1 hour at room temperature. The reaction product was precipitated with water and recrystallized from isopropanol. Yield: 11.6 gm (67% of theory); m.p. 91-93° C.

reactant | hydrogen peroxide | 12.8 ml | OO | H2O2
reactant | ethyl-[2-(2'-fluoro-4-biphenylyl)-2-oxo-ethyl]-sulfide | 59.5 millimols, 16.3 gm | C(C)SCC(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)F | C16H15FOS
solvent | acetic acid | 170 ml | C(C)(=O)O | C2H4O2
product | Ethyl-[2-(2'-fluoro-4-biphenylyl)-2-oxo-ethyl]-sulfoxide | C(C)S(=O)CC(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)F | C16H15FO2S
